US05202330
a) 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio] 4-methyl-6-(3-nitrophenyl)-1-(1-oxopropyl)-5 pyrimidinecarboxylic acid, methyl ester
1,4-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester (1.52 g., 3.5 mmole) in 15 ml of dichloromethane is cooled under argon to 0°-5° C. and treated with propionyl chloride (0.43 g., 4.7 mmole) and pyridine (0.55 g., 7.0 mmole). The mixture is then allowed to stir at room temperature for 3 hours, diluted with ether and the salt is filtered. The filtrate is washed with water, 1N hydrochloric acid, water, aqueous sodium bicarbonate, water and saturated brine. The aqueous fractions are back extracted with fresh ether. The combined organic solutions are dried (magnesium sulfate) and concentrated in vacuo to give 1.6 g. of a viscous oily product.

reactant | 1,4-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester | 3.5 mmole, 1.52 g | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C21H21N3O5S
reactant | propionyl chloride | 4.7 mmole, 0.43 g | C(CC)(=O)Cl | C3H5ClO
reactant | pyridine | 7.0 mmole, 0.55 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio] 4-methyl-6-(3-nitrophenyl)-1-(1-oxopropyl)-5 pyrimidinecarboxylic acid, methyl ester | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(CC)=O | C24H25N3O6S
